US04304788
A solution of ethyl 2-{1-[4-(4-chlorophenyl)-phenyl]-ethoxy}propionate (3.0 g.) in a mixture of ethanol (150 ml.) and water (5 ml.), containing sodium hydroxide (5.0 g.), was heated under reflux for 5 hours. The mixture was then evaporated and the residue diluted with water (50 ml.) and extracted with ether. The ether extract was discarded and the aqueous alkaline phase was acidified to pH 1-3 by addition of concentrated hydrochloric acid. The mixture was extracted thoroughly with ether. The combined extracts were washed with water, dried (MgSO4), and evaporated. The residue was triturated with petrol (40-60) and the solid which formed was separated and recrystallised from toluene to give 2-{1-[4-(4-chlorophenyl)phenyl]ethoxy}propionic acid, m.p. 144°-146° C. in 26% yield.

reactant | ethyl 2-{1-[4-(4-chlorophenyl)-phenyl]-ethoxy}propionate | 3.0 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)OC(C(=O)OCC)C | C19H21ClO3
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-{1-[4-(4-chlorophenyl)phenyl]ethoxy}propionic acid | 26% yield | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)OC(C(=O)O)C | C17H17ClO3
